US05175157
2-[(N-(3-(Pyrid-3-yl)-propyl)-piperidin-3-yl)-methyl]-6,7-dimethyl-1-oxo-1,2,3,4-tetrahydro-isoquinoline-dihydrochloride-dihydrate
Prepared from 6,7-dimethyl-1-oxo-1,2,3,4-tetrahydro-isoquinoline in dimethylsulphoxide with potassium tert.butoxide and 3-chloromethyl-N-[3-(pyrid-3-yl)-propyl]-piperidine analogously to Example 2.

reactant | 6,7-dimethyl-1-oxo-1,2,3,4-tetrahydro-isoquinoline | CC=1C=C2CCNC(C2=CC1C)=O | C11H13NO
reactant | potassium tert.butoxide | CC(C)([O-])C.[K+]
reactant | 3-chloromethyl-N-[3-(pyrid-3-yl)-propyl]-piperidine | ClCC1CN(CCC1)CCCC=1C=NC=CC1 | C14H21ClN2
solvent | dimethylsulphoxide | CS(=O)C | C2H6OS
product | 2-[(N-(3-(Pyrid-3-yl)-propyl)-piperidin-3-yl)-methyl]-6,7-dimethyl-1-oxo-1,2,3,4-tetrahydro-isoquinoline-dihydrochloride-dihydrate | O.O.Cl.Cl.N1=CC(=CC=C1)CCCN1CC(CCC1)CN1C(C2=CC(=C(C=C2CC1)C)C)=O | InChI=1S/C25H33N3O.2ClH.2H2O/c1-19-14-23-9-13-28(25(29)24(23)15-20(19)2)18-22-8-5-12-27(17-22)11-4-7-21-6-3-10-26-16-21;;;;/h3,6,10,14-16,22H,4-5,7-9,11-13,17-18H2,1-2H3;2*1H;2*1H2
